*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/2.20e-03[uF]/50[V]
* Murata P/N :GRM155B11H222KA01
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B11H222KA01 Port1 Port2
C01 Port1 N01 2.20e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.51e-10
R03 N02 N03 1.56e-01
C04 N03 N04 3.97e-07
R04 N03 N04 7.46e+03
C05 N04 N05 3.97e-07
R05 N04 N05 1.13e+03
C06 N05 N06 3.58e-07
R06 N05 N06 1.49e+02
C07 N06 N07 3.36e-07
R07 N06 N07 1.87e+01
C08 N07 N08 3.25e-07
R08 N07 N08 3.26e+00
C09 N08 N09 2.10e-07
R09 N08 N09 7.04e-01
C10 N09 N10 1.07e-07
R10 N09 N10 2.29e-01
C11 N10 N11 2.58e-08
R11 N10 N11 1.15e-01
L12 N11 N12 5.89e-11
R12 N11 N12 5.55e-01
C13 N12 N13 3.78e-09
L13 N12 N13 1.38e-11
R13 N12 N13 8.55e-02
C14 N13 Port2 1.98e-12
L14 N13 Port2 1.48e-10
R14 N13 Port2 2.05e+01
.ENDS GRM155B11H222KA01
